US08426447B2
To a solution of (R)-2′-(3-methoxy-3-methylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (23 mg, 0.054 mmol) in MeOH (1 mL) suspension of palladium on carbon (28.7 mg, 0.027 mmol) in ethyl acetate (0.5 mL) was added and the mixture was hydrogenated (1 atm) overnight at 40° C. The mixture was cooled to room temperature, filtered through plug of Celite and concentrated to give (R)-2′-(3-methoxy-3-methylbutyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | (R)-2′-(3-methoxy-3-methylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.054 mmol, 23 mg | COC(C#CC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H22N4O3
solvent | MeOH | 1 mL | CO | CH4O
catalyst | palladium on carbon | 0.027 mmol, 28.7 mg | [Pd] | Pd
solvent | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2′-(3-methoxy-3-methylbutyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | COC(CCC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H26N4O3
